Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: Laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight of 244.8 pounds as of ___ with her initial screen 
weight of 238.4 pounds, height of 64 inches and BMI of 42.0.  
Her previous weight loss efforts have included weight management 
program at ___, prescription weight loss 
medications phentermine, topiramate and Saxenda, 6 RD/nutrition 
visits and over-the-counter herbal supplement Garcinia Cambogia 
loosen up to 30 pounds but her weight loss attempts have failed 
to produce lasting results.  She stated that her lowest adult 
weight was 120 pounds at the age of ___ and that her highest 
weight is her current weight of 245 pounds.  She weighed 161 
pounds ___ years ago, 158 pounds ___ years ago, 198 pounds ___ 
years ago, 187 pounds ___ years ago and 234 pounds one year ago.  
She put on significant weight after the birth of her last child. 
 She stated that she has been struggling with weight her whole 
life and cites as factors contributing to her excess weight 
stress and emotional eating, large portions, late night eating, 
grazing, convenience eating and lack of exercise.  She does try 
to walk daily for 1.5-2 hours split up throughout the day.  She 
denied history of eating disorders - no anorexia, bulimia, 
diuretic or laxative abuse and she denied binge eating.  She 
does have reactive/situational depression and had been diagnosed 
with ADHD in the past.  She does not see a therapist nor has she 
been hospitalized for mental health issues and she is not on any 
psychotropic medications.

 
Past Medical History:
1)  hypertension
2)  hyperlipidemia
3)  history of gallstones
4)  history of childhood asthma
5)  migraine headaches
6)  vitamin D deficiency
7)  iron deficiency
8)  history of STD 
9)  cystic fibrosis carrier

Her only surgical history is noted for laparoscopic
cholecystectomy in ___.

 
Social History:
___
Family History:
Her family history is noted for father age ___ alive and well; 
mother age ___ with hypertension, hyperlipidemia; she has 4 
siblings alive and well sister age ___ with lupus and had a 
sleeve procedure.

 
Physical Exam:
Gen: no acute distress, alert and oriented x 3
Cardiac: regular rate and rhythm, no murmurs appreciated, NL 
S1,S2
Respiratory: clear to auscultation, bilaterally; no respiratory 
distress
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding
Wounds: abdominal lap sites with primary dressing, CDI
Ext: no lower extremity edema or tenderness, bilaterally
 
Brief Hospital Course:
The patient presented to pre-op on ___, was taken to 
the operating room and underwent a laparoscopic sleeve 
gastrectomy for obesity. There were no adverse events in the 
operating room; please see the operative note for details. Pt 
was extubated, taken to the PACU until stable, then transferred 
to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with preoperative 
TAP block and postoperative acetaminophen, ketorolac and 
gabapentin.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
diet was gradually advanced to a bariatric stage 2 diet, which 
was well tolerated.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.   
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. liraglutide 3 mg/0.5 mL (18 mg/3 mL) subcutaneous DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3. HELD- liraglutide 3 mg/0.5 mL (18 mg/3 mL) subcutaneous DAILY 
 This medication was held. Do not restart liraglutide until you 
discuss with Dr. ___ your prescribing provider.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___